data/rdb19/train.csv
rxn,smiles,ea
4801,[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[O:5][C:6]([H:16])([H:17])[H:18])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][O:19][H:20]>>[C:1]([C:2]([C:3]([O:5][C:6]([H:16])([H:17])[H:18])([H:12])[O:19][H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([H:13])([H:14])[H:15],75.77579997904832
3278,[C:13]([O:14][O:15])([H:16])([H:17])[H:18].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[O:15][O:14][C:13]([H:16])([H:17])[H:18])([H:5])([H:6])[H:7],22.05530682418612
2338,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:20])([H:21])[H:22])([O:12][C:13]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1]([C:2]([H:3])([H:4])[H:19])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:20])([H:21])[H:22])[O:12][C:13]([H:23])([H:24])[H:25])([H:17])[H:18])([H:14])([H:15])[H:16],19.704811876668828
497,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:20])([H:21])[H:22])([N:11]([C:12](=[O:13])[H:24])[H:23])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1]([O:2])([H:4])([H:5])[H:6].[N:11]([C:12](=[O:13])[H:24])([H:19])[H:23].[O:3]=[C:9]([C:8]([C:7]([H:14])([H:15])[H:16])([H:17])[H:18])[C:10]([H:20])([H:21])[H:22],74.22049587889342
1420,[C:10]([O:11][C:12](=[O:13])[C:14]([C:15]([H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[C:17]([H:18])[H:19])([H:20])([H:21])[H:22].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[C:17]([C:14]([C:12]([O:11][C:10]([H:20])([H:21])[H:22])=[O:13])([C:15]([H:23])([H:24])[H:25])[C:16]([H:26])([H:27])[H:28])([H:18])[H:19])[H:6],17.10036946402397
2612,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[H:16][C:20]([C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29],26.57988900225609
3521,[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:18]([C:17]([H:23])([H:24])[H:25])([O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]1([C:5]([H:14])([H:15])[H:16])[C:18]([C:17]([H:23])([H:24])[H:25])([O:20][C:21](=[C:22]([H:27])[H:28])[H:26])[O:19]1)([H:9])[H:10])([H:6])([H:7])[H:8].[C:4]([H:11])([H:12])[H:13],44.89506865100702
5265,[C:1]([C:2]([C:3]([H:4])[H:5])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21](=[C:22]([N:23]([C:24](=[O:25])[H:30])[H:29])[H:28])([H:26])[H:27]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:22]([C:21]([H:26])[H:27])([N:23]([C:24](=[O:25])[H:30])[H:29])[H:28])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14],18.93541605141945
4344,[C:16]([C:17]([C:18]([H:19])[H:20])([O:21][C:22](=[O:23])[C:24]([H:29])([H:30])[H:31])[H:28])([H:25])([H:26])[H:27].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])[H:12])([C:7]([H:13])([H:14])[H:15])[C:18]([C:17]([C:16]([H:25])([H:26])[H:27])([O:21][C:22](=[O:23])[C:24]([H:29])([H:30])[H:31])[H:28])([H:19])[H:20])([H:8])([H:9])[H:10],16.661215541127604
3409,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22][c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[H:30])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],26.065614054678008
217,[C:12](=[C:13]([N:14]([C:15](=[O:16])[H:21])[H:20])[H:19])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12](=[C:13][N:14]([C:15](=[O:16])[H:21])[H:20])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[H:19])([H:6])([H:7])[H:8],34.239751202985644
5377,[C:17]([C:18]([C:19]([H:20])[O:21][C:22](=[O:23])[C:24]([H:30])([H:31])[H:32])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:17]([C:18](=[C:19]([H:20])[O:21][C:22](=[O:23])[C:24]([H:30])([H:31])[H:32])[H:28])([H:25])([H:26])[H:27].[C:1]([C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:11])[H:29])([H:9])[H:10],36.55207399430219
